US07326801B2
h) [(R)-3-[3-Methoxy-4-(4-phenyl-butoxy)-phenyl]-1-methyl-1-(3-oxo-1,5-dihydro-3λ*5*-benzo[e][1,3,2]dioxaphosphepin-3-yloxymethyl)-propyl]-carbamic acid tert-butyl ester
To a solution of N-Boc-(R)-2-Amino-2-ethyl-4-[3-methoxy-4-(4-phenyl-butoxy)-phenyl]-butan-1-ol (0.23 g; 0.5 mmol) in THF (5 ml) is added N,N-diethyl-1,5-dihydro-2,4,3-benzodioxaphosphepin-3-amine (0.24 g; 1 mmol) and tetrazole (0.11 g; 1.5 mmol). After 2 hours at RT H2O2 (30% in water; 0.58 ml) is added and the mixture is kept at RT for further two hours. The reaction mixture is quenched with Na2S2O3 and extracted with ethyl acetate and then washed with aqueous citric acid and aqueous saturated NaHCO3 solution. The organic layer is dried and concentrated and then purified on a silica gel using dichloromethane/ethanol (95/5) as mobile phase.

reactant | N-Boc-(R)-2-Amino-2-ethyl-4-[3-methoxy-4-(4-phenyl-butoxy)-phenyl]-butan-1-ol | 0.5 mmol, 0.23 g | C(=O)(OC(C)(C)C)N[C@@](CO)(CCC1=CC(=C(C=C1)OCCCCC1=CC=CC=C1)OC)CC | C28H41NO5
reactant | N,N-diethyl-1,5-dihydro-2,4,3-benzodioxaphosphepin-3-amine | 1 mmol, 0.24 g | C(C)N(P1OCC2=C(CO1)C=CC=C2)CC | C12H18NO2P
reactant | tetrazole | 1.5 mmol, 0.11 g | N1N=NN=C1 | CH2N4
reactant | H2O2 | 0.58 ml | OO | H2O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | [(R)-3-[3-Methoxy-4-(4-phenyl-butoxy)-phenyl]-1-methyl-1-(3-oxo-1,5-dihydro-3λ*5*-benzo[e][1,3,2]dioxaphosphepin-3-yloxymethyl)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@](CCC1=CC(=C(C=C1)OCCCCC1=CC=CC=C1)OC)(COP1(OCC2=C(CO1)C=CC=C2)=O)C)=O | C35H46NO8P
